US07696216B2
C. Synthesis of (4-isopropyl-phenyl)-(2-{[2-(2-methoxy-ethoxy)-pyridin-3-ylmethyl]-amino}-5-prop-2-ynyloxy-phenyl)-methanone
To a solution of 400 mg (2.18 mmol) [2-(2-methoxy-ethoxy)-pyridin-3-yl]-methanol in 4 ml dioxane at r.t. is added 1.12 ml (6.55 mmol) Hünig's base followed by 170 μl (2.18 mmol) mesyl chloride and the mixture is stirred for 5 min. 641 mg (2.18 mmol) (2-amino-5-propargyloxy-phenyl)-(4-isopropyl-phenyl)-methanone is added to this mixture with the addition of 1 ml of dioxane. The reaction mixture is then heated to 100° C. and stirred overnight. The mixture is partitioned between ether/water and the organic layer is washed with brine, dried with Na2SO4, filtered and evaporated. Flash-chromatography (ethyl acetate/ether 1:1) yields a yellow oil

reactant | [2-(2-methoxy-ethoxy)-pyridin-3-yl]-methanol | 2.18 mmol, 400 mg | COCCOC1=NC=CC=C1CO | C9H13NO3
reactant | Hünig's base | 6.55 mmol, 1.12 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | mesyl chloride | 2.18 mmol, 170 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | (2-amino-5-propargyloxy-phenyl)-(4-isopropyl-phenyl)-methanone | 2.18 mmol, 641 mg | NC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC=C(C=C1)C(C)C | C19H19NO2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (4-isopropyl-phenyl)-(2-{[2-(2-methoxy-ethoxy)-pyridin-3-ylmethyl]-amino}-5-prop-2-ynyloxy-phenyl)-methanone | C(C)(C)C1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OCC#C)NCC=1C(=NC=CC1)OCCOC | C28H30N2O4
